US06846819B1
c) 1,3-Dimethyl-2-(methylaminomethyl)-1H-indole
To 1,3-dimethyl-1H-indole-2-carboxaldehyde (13.0 g, 75 mmole) was added a solution of 2.0 M methylamine in methanol (150 mL, 300 mmole) and HOAc (4.3 mL, 75 mmole). The solution was stirred at RT for 4 hr, then was cooled to 0° C. and sodium cyanoborohydride (5.0 g, 80 mmole) was added portionwise over 5 min. The reaction was then allowed to warm to RT. After 16 hr. the reaction was concentrated under vacuum and the residue was taken up in Et2O. The solution was washed with 1.0 N NaOH then with brine, dried (Na2SO4), and concentrated to dryness. Flash chromatography on silica gel (95:5 CHCl3/methanol containing 5% NH4OH) gave the title compound (7.34 g, 52%) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.53 (d, J=7.8 Hz, 1H), 7.26 (d, J=7.8 Hz, 1 H), 7.20 (t,1H), 7.09 (t,1H), 3.88 (s, 2H), 3.76 (s, 3H), 2.46 (s, 3H), 2.32 (s, 3H), 1.36 (br s,1H).

reactant | 1,3-dimethyl-1H-indole-2-carboxaldehyde | 75 mmole, 13.0 g | CN1C(=C(C2=CC=CC=C12)C)C=O | C11H11NO
reactant | methylamine | 2.0 M | CN | CH5N
reactant | methanol | 300 mmole, 150 mL | CO | CH4O
reactant | HOAc | 75 mmole, 4.3 mL | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 80 mmole, 5.0 g | C(#N)[BH3-].[Na+]
product | 1,3-Dimethyl-2-(methylaminomethyl)-1H-indole | 7.34 g, 52% | CN1C(=C(C2=CC=CC=C12)C)CNC | C12H16N2
